US06610692B1
Step B: 2-Amino-6-methyl-3-nitro-5-(phthalimidomethyl)pyridine
To a stirred solution of 2-amino-6-methyl-5-(phthalimidomethyl)pyridine (3.00 g, 11.2 mmol) in H2SO4 (17 mL) at 0° C. was added HNO3 (583 μL) dropwise. The solution was stirred for 1 h at 0° C. and was then warmed to room temperature at which it was stirred for an additional 3 h. The reaction was diluted with water and neutralized with solid Na2CO3. The resulting orange precipitate was filtered and washed with water. Silica gel chromatography (gradient 3% MeOH/CHCl3 to 4% MeOH/CHCl3) afforded the title compound as a bright yellow solid.

reactant | 2-amino-6-methyl-5-(phthalimidomethyl)pyridine | 11.2 mmol, 3.00 g | NC1=NC(=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C | C15H13N3O2
reactant | HNO3 | 583 μL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 17 mL | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-Amino-6-methyl-3-nitro-5-(phthalimidomethyl)pyridine | NC1=NC(=C(C=C1[N+](=O)[O-])CN1C(C=2C(C1=O)=CC=CC2)=O)C | C15H12N4O4
